US07691850B2
d) (R)-2-(6-Methoxy-[1,5]-naphthyridin-4-yl)oxirane
(R)-2-Bromo-1-(6-methoxy-[1,5]-naphthyridin-4-yl)ethanol (4.8 g, 0.017 mol) in methanol (20 ml) was stirred with potassium carbonate (2.6 g, 0.019 mol) for 1 hour, then evaporated and chromatographed on silica gel (ethyl acetate-hexane-dichloromethane) to give a solid (3.14 g, 92%), (91% ee by chiral HPLC).

reactant | (R)-2-Bromo-1-(6-methoxy-[1,5]-naphthyridin-4-yl)ethanol | 0.017 mol, 4.8 g | BrC[C@H](O)C1=CC=NC2=CC=C(N=C12)OC | C11H11BrN2O2
reactant | potassium carbonate | 0.019 mol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 20 ml | CO | CH4O
product | (R)-2-(6-Methoxy-[1,5]-naphthyridin-4-yl)oxirane | 3.14 g, 92% | COC=1N=C2C(=CC=NC2=CC1)[C@H]1OC1 | C11H10N2O2
